US07244763B2
Step 4. Preparation of [4-(4-Trifluoromethyl-benzyloxy)-phenyl]-methanol (Compound 5D)
4-Hydroxymethyl-phenol (1 g, 8.06 mmol), 1-Chloromethyl-4-trifluoromethyl-benzene (1.57 g, 8.06 mmol), and cesium carbonate (5.26 g, 16.12 mmol) were refluxed in acetonitrile for 20 h, cooled, filtered, and concentrated to give the title compound. MS m/z 265 (M−H2O+1).

reactant | 4-Hydroxymethyl-phenol | 8.06 mmol, 1 g | OCC1=CC=C(C=C1)O | C7H8O2
reactant | 1-Chloromethyl-4-trifluoromethyl-benzene | 8.06 mmol, 1.57 g | ClCC1=CC=C(C=C1)C(F)(F)F | C8H6ClF3
reactant | cesium carbonate | 16.12 mmol, 5.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | C(C)#N | C2H3N
product | [4-(4-Trifluoromethyl-benzyloxy)-phenyl]-methanol | FC(C1=CC=C(COC2=CC=C(C=C2)CO)C=C1)(F)F | C15H13F3O2
